### ISSUE TITLE
We need to port the max minigame

### ISSUE THREAD

**Issue by kbuzzard** [kbuzzard/FilterGame#1]
In lectures I raised the question of showing that the collection of all subsets of the naturals that contained the infinite set {m,m+1,m+2,m+3,...} for some number m, was a filter.

The proof that the intersection of two sets of this form is also of this form, involves using facts about the *maximum* of two numbers `m` and `n`. So to do this level we need to know something about the API (the main theorems) for Lean's `max` function.

I once wrote down this API and made a one-world game called the Max Minigame once. The game is still online here: https://www.ma.imperial.ac.uk/~buzzard/xena/max_minigame/

And the proofs (written in Lean 3) are [here](https://github.com/ImperialCollegeLondon/real-number-game/blob/master/src/game/max/max_API_test.lean). A port of this game to a world of the Filter Game would be welcome! You could call it MinMaxWorld. You should present the inequalities as axioms and offer them all to the reader in world 1. Probably you should prove everything for a general totally ordered type. You'll need to translate the proofs from Lean 3: Just do this by hand or with Copilot or whatever; `cases` is now `cases'` and `split` is now `constructor`.

**Comment by kbuzzard** [comment]
Question: how much of it works for a general *lattice*? This is a partially ordered set which has sups and infs for two elements. Here's some example code.

```lean
-- hunch : max min stuff works not just for total orders but for *lattices*

-- Open problem: how much of the game doesn't actually assume total order?

import Game.Levels.SetWorld

-- let L be a lattice
variable (L : Type) [Lattice L] (a b c : L)

#check a ≤ b -- a true-false statement

example (h1 : a ≤ b) (h2 : b ≤ c) : a ≤ c := by
  -- idea: make some kind of lattice tactic which does stuff like the below
  aesop (add unsafe [le_trans, inf_le_right, le_sup_left])

#check a ⊔ b -- least upper bound of a and b

example : a ≤ a ⊔ b := by exact SemilatticeSup.le_sup_left a b
example : b ≤ a ⊔ b := by exact SemilatticeSup.le_sup_right a b

example (h1 : a ≤ c) (h2 : b ≤ c) : a ⊔ b ≤ c := by exact SemilatticeSup.sup_le a b c h1 h2

-- conclusion: a ⊔ b = least uipper bound of a and b

#check a ⊓ b -- greatest lower bounds also exist


-- does max minigame work in this generality? I have no idea
```

**Comment by kbuzzard** [comment]
We need this stuff when we do example 2 and 3 of filters, i.e. atTop and nhds. Right now I'm putting these off!
